Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Asymptomatic hypertension with SBP > 200
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M, otherwise healthy, was sent to the ED by PCP after 
finding of SBP in the 200s in the office. Patient states that 
about a month ago, he started seeing a bright spot out of his 
right eye. He was referred to ophtho by his PCP and was told he 
had retinal bleeding in both eyes. Blood pressures around that 
time were normal, ~122/65 (___). Since that time, he states 
that the bright spot has resolved. He endorses floaters but 
denies blurry vision or other visual changes. Furthermore, he 
endorses snoring while sleeping but has never had a formal 
diagnosis of OSA.

On the day of admission, BP at his PCP's office was significant 
for 200+ systolic, prompting ED evaluation.

In the ED, initial vitals were notable for a lack of fever, HR 
___, first BP was 217/128, 100%RA and per ED Dash patient 
was asymptomatic.  
Labs showed a normal CBC, and a BMP with K 3.3, Cr 1.2, 
otherwise wnl.
He was given:
-- Metop 25 tartrate + Lisinopril 10mg at 10pm, 
-- Repeat Metop 25 tartrate at 11pm  (BP 220/153)
-- Repeat Lisinopril 10 at 2am  (BP 175/127)
-- IV Labetalol 10mg at 4am  (187/114)

On the floor his arrival BP = 204/112, HR = 90. T = 98.4, RR = 
16, O2Sat = 99 RA

On assessment, he denies any specific, focal complaints. He does 
report feeling more sluggish in the morning on occasion since 
___. He also endorses occasional headaches ___ per month) 
relieved by ___ PRN, however he denies having headaches at 
this time. He denies chest pain, abdominal pain, difficulty 
urinating, confusion, muscle weakness, loss of sensation, 
numbness/tingling, visual changes, palpitations, nausea, or 
vomiting. He does not take stimulants but drinks ___ cups of 
coffee/day, noting that prior to arriving in the ED he had a 
double strength coffee. Furthermore, he reports being supremely 
aggravated by traffic prior to arriving at his PCP's office 
yesterday.

ROS is negative as follows: Denies change in BM, bleeding 
episodes, back pain, rashes, skin breakdown, unintentional 
weight loss, or loss of appetite. 

 
Past Medical History:
Appendectomy
 
Social History:
___
Family History:
No known family history of HTN, DM. Grandfather with throat 
cancer, Grandmother with a stroke 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T: 98.4, BP: 204/112, HR: 90, RR: 16, O2Sat: 99RA
GENERAL: AOx3, NAD, pleasant, well-appearing
HEENT: MMM, no OP lesions, no supraclavicular or cervical LAD. 
PERRLA
CARDIAC: RRR, NL S1 S2, no M/R/G
LUNGS: CTAB, no R/R/W
BACK: No spinous process tenderness, no CVA tenderness  
ABDOMEN: Soft, non-tender, non-distended, BS+, no rebound or 
guarding
EXTREMITIES: Trace edema in ___ B/L
SKIN: No rashes or skin breakdown
NEUROLOGIC: CN II-XII intact, strength ___ in all extremities, 
sensation grossly intact in all extremities

DISCHARGE PHYSICAL EXAM
Vitals: 98.0 PO ___ 95 RA 
GENERAL: AOx3, NAD, pleasant, obese, well-appearing, 
HEENT: MMM, no OP lesions, no supraclavicular or cervical LAD.
CARDIAC: RRR, NL S1 S2, no M/R/G. 
LUNGS: CTAB, no R/R/W
BACK: No spinous process tenderness, no CVA tenderness  
ABDOMEN: Soft, non-tender, non-distended, BS+, no rebound or 
guarding 
EXTREMITIES: No edema in ___ B/L
SKIN: No rashes or skin breakdown
NEUROLOGIC: CN II-XII intact with L visual acuity worse than R. 
Strength ___ in all extremities, sensation grossly intact in all 
extremities
 
Pertinent Results:
ADMISSION LABS
--------------
___ 06:17PM BLOOD WBC-8.9 RBC-5.17 Hgb-15.7 Hct-44.2 MCV-86 
MCH-30.4 MCHC-35.5 RDW-12.0 RDWSD-36.9 Plt ___
___ 06:17PM BLOOD Glucose-79 UreaN-16 Creat-1.2 Na-139 
K-3.3 Cl-98 HCO3-27 AnGap-17
___ 01:35PM BLOOD ALT-30 AST-21 AlkPhos-85 TotBili-0.5
___ 01:35PM BLOOD proBNP-179*
___ 01:35PM BLOOD Calcium-9.8 Phos-4.1 Mg-2.2
___ 01:35PM BLOOD TSH-2.4
___ 01:35PM BLOOD Cortsol-12.0
___ 01:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:17PM URINE Color-Straw Appear-Clear Sp ___
___ 07:17PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 07:17PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

IMAGING:
--------
RENAL ARTERY ULTRASOUND (___): 
Normal renal ultrasound.  No evidence of renal artery stenosis.

MICROBIOLOGY:
--------------
___ 7:17 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE/INTERVAL LABS
___ 08:57AM BLOOD WBC-6.8 RBC-4.91 Hgb-14.7 Hct-42.3 MCV-86 
MCH-29.9 MCHC-34.8 RDW-11.9 RDWSD-37.5 Plt ___
___ 08:57AM BLOOD Glucose-84 UreaN-22* Creat-1.1 Na-139 
K-4.0 Cl-101 HCO3-23 AnGap-19
___ 08:57AM BLOOD Calcium-9.8 Phos-3.6 Mg-2.___ y/o M with no PMHx presents from PCP with SBPs > 200 and 
concern for retinal hemorrhages as evaluated by outside 
opthalmology ___), admitted for severe 
hypertension.

# Severe hypertension - Patient continued to endorsing 
occasional floaters but no change in vision. He otherwise 
remained completely asymptomatic. His ophthalmologic exam, if 
indeed it showed retinal hemorrhages, would be indicative of end 
organ dysfunction, thereby suggesting hypertensive crisis. UA 
was normal, though Cr was 1.2 on admission up from his baseline 
of 0.9-1. He returned to his baseline prior to discharge. Workup 
for secondary causes of Hypertension was initiated. Urine 
prot/Cr: 0.2, Urine Toxicology and Serum Toxicology were 
negative. TSH and BNP were not concerning and renal artery 
ultrasound was normal. Hypertension is currently thought to be 
most likely secondary to obesity and possibly 
underlying/undiagnosed OSA. Plasma aldosterone and renin levels 
were sent off. He was started on Labetalol and Amlodipine and we 
had been increasing his Labetalol steadily from 200 mg TID to 
___ mg TID on discharge, with improvement in his BP. Amlodipine 
5 mg was started on the day of admission with our goal SBPs <= 
160 and DBP <= 100. He will need medication titration as an 
outpatient. He will be checking his BP at home at least daily 
(his wife purchased and brought in a BP machine for home use, 
and tested it against the BP machine in the hospital).  They 
will record the BP measurements they get at home and bring them 
to his PCP ___ appointment.  Given his age and the severity of 
his hypertension, as well as with potentially with end-organ 
damage, we would advise consideration of having him evaluated in 
a hypertension specialty clinic.

# Potential OSA: Patient is obese with an enlarged neck and 
history concerning for OSA (snoring, tiredness, and mild ___ 
edema now with SBPs 160-220). SpO2 was not concerning on 
continuous O2 monitoring overnight. He will benefit from sleep 
study followup.

TRANSITIONAL ISSUES
- Follow-up aldosterone and renin levels:
    - Renin returned as of the completion of this discharge 
summary:
Test                          Result              Reference 
Range/Units
PLASMA RENIN ACTIVITY,        3.51                0.25-5.82 
ng/mL/h
LC/MS/MS   

    - Aldosterone still pending as of ___.

- Follow-up with ophthalmology for retinal hemorrhages
- Consider sleep study for OSA workup, potential contributor to 
HTN
- Advised diet management and weight loss 
- Advised not adopting major increase in exercise regimen until 
cleared by PCP

___ contact: ___ (Wife) ___
#Code Status: Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
2.  Labetalol 400 mg PO TID 
RX *labetalol 200 mg 2 tablet(s) by mouth three times a day Disp 
#*180 Tablet Refills:*0 
3.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Severe Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ due to your supremely elevated blood 
pressures (> 200 mm Hg systolic blood pressure). You were 
started on a dual blood pressure medication regimen which you 
should continue after discharge. We did evaluate your blood and 
kidneys for possible causes of this hypertension which are not 
remarkable at this time. 

It is important that you schedule follow-up appointments with 
your PCP and your eye doctor after discharge. 

It was a pleasure taking care of you! We wish you the best!

Your ___ Team
 
Followup Instructions:
___